US05686622
The process is performed in a similar manner to that described in Example 1, but starting with a solution containing 0.7 g of tert-butyl (2S,4S,5S)-3-(2-aminoacetyl)-5-methoxycarbonyl-4-phenyl-2-thiazolidinecarboxylate in 20 ml of tetrahydrofuran and 250 μl of 3-methylphenyl isocyanate. The crude product is purified by chromatography on silica [eluent: ethyl acetate/cyclohexane (20/80 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. 0.28 g of tert-butyl (2S,4S,5S)-5-methoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-phenyl-2-thiazolidinecarboxylate is thus obtained in the form of a white foam, Rf=0.39 [ethyl acetate/cyclohexane (50/50 in volume)]; 1H NMR (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 297 K, δ in ppm): 1.48 (s, 9H: CH3 of the tert-butyl); 2.21 (s, 3H: ArCH3); 3.28 and 4.15 (broad d and d respectively, J=17.5 Hz, 1H each: COCH2N); 3.37 (s, 3H: COOCH3); 5.10 (d, J=7 Hz, 1H: H at C5 of the ring); 5.43 (s, 1H: H at C2 of the ring); 5.68 (d, J=7 Hz, 1H: H at C4 of the ring); 6.70 (broad d, J=7.5 Hz, 1H: aromatic H (H ortho to the CH3)); 7.06 (t, J=7.5 Hz, 1H: aromatic H (H meta to the CH3)); from 7.00 to 7.50 (mt, 5H: aromatic H); 7.72 (mt, 2H: H ortho to the phenyl).

reactant | tert-butyl (2S,4S,5S)-3-(2-aminoacetyl)-5-methoxycarbonyl-4-phenyl-2-thiazolidinecarboxylate | 0.7 g | NCC(=O)N1[C@@H](S[C@@H]([C@@H]1C1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C18H24N2O5S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | 3-methylphenyl isocyanate | 250 μl | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl (2S,4S,5S)-5-methoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-phenyl-2-thiazolidinecarboxylate | 0.28 g | COC(=O)[C@@H]1[C@@H](N([C@@H](S1)C(=O)OC(C)(C)C)C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1 | C26H31N3O6S
